US09340549B2
(S)-3-(4-(7-Iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one
A heterogeneous mixture of (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-N′-(4-iodopyridin-2-yl)benzohydrazide (1.53 g, 2.90 mmol) in glacial AcOH (11.70 mL, 203 mmol) was heated at 180° C. for 1 hour. LC-MS indicated clean and complete conversion to the desired product. The reaction mixture was concentrated under vacuum to give the product as a yellow solid. The material was carried on to next step without purification. m/z (ESI) 511.0 (M+H)+.

reactant | (S)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-N′-(4-iodopyridin-2-yl)benzohydrazide | 2.90 mmol, 1.53 g | CC1([C@@H](N(C(O1)=O)C1=CC=C(C(=O)NNC2=NC=CC(=C2)I)C=C1)C1=CC=CC=C1)C | C23H21IN4O3
reactant | AcOH | 203 mmol, 11.70 mL | CC(=O)O | C2H4O2
product | (S)-3-(4-(7-Iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | IC1=CC=2N(C=C1)C(=NN2)C2=CC=C(C=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C23H19IN4O2
